US06177067B1
2,2-Dimethyl-3-{[(octadecylamino)carbonyl]oxy}-propyl 4-methyltetrahydro-1(2H)-pyrazinecarboxylate hydrochloride (Compound 8)
To an ethyl acetate solution (25 ml) containing 2.500 g of 2,2-dimethyl-3-{[(octadecylamino)carbonyl]oxy}propyl 4-methyltetrahydro-1(2H)-pyrazinecarboxylate was added 1.42 ml of a 4N hydrogen chloride solution in ethyl acetate, followed by stirring at room temperature for 0.5 hour. After the reaction mixture was concentrated under reduced pressure, the resulting residue was recrystallized from a mixture of ethanol and ethyl acetate to obtain 2.323 g of the title compound in the form of a white solid.

reactant | 2,2-dimethyl-3-{[(octadecylamino)carbonyl]oxy}propyl 4-methyltetrahydro-1(2H)-pyrazinecarboxylate | 2.500 g | CN1CCN(CC1)C(=O)OCC(COC(=O)NCCCCCCCCCCCCCCCCCC)(C)C | C30H59N3O4
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
product | 2,2-Dimethyl-3-{[(octadecylamino)carbonyl]oxy}-propyl 4-methyltetrahydro-1(2H)-pyrazinecarboxylate hydrochloride | 2.323 g | Cl.CN1CCN(CC1)C(=O)OCC(COC(=O)NCCCCCCCCCCCCCCCCCC)(C)C | InChI=1S/C30H59N3O4.ClH/c1-5-6-7-8-9-10-11-12-13-14-15-16-17-18-19-20-21-31-28(34)36-26-30(2,3)27-37-29(35)33-24-22-32(4)23-25-33;/h5-27H2,1-4H3,(H,31,34);1H
